US07737179B2
Preparation of (2-Oxo-morpholin-4-yl)-acetic acid ethyl ester
To N-(2-hydroxyethyl)iminodiacetic acid (3.55 g, 20 mmol) in 500 mL EtOH was added concentrated HCl (1.7 mL, 21 mmol). The mixture was stirred for 24 h at rt and concentrated. The residue was partitioned in diethyl ether (200 mL) and NaHCO3 (150 mL, 10% wt). After layer separation, the organic phase was washed with aqueous NaHCO3 (2×100 mL) and dried over Na2SO4 and concentrated and dried under high vacuum. To this crude product in 250 mL of dioxane was added 1.5 mL of HCl and the mixture was heated to reflux for 24 h. After removal of the solvent, the residue was chromatographed (dichloromethane/methanol) to afford a dark yellow oil (1.45 g). 1H-NMR (CD3OD, 300 MHz) δ (ppm): 4.40 4.37 (m, 2H), 4.18-4.11 (m, 2H), 3.60 (s, 2H), 3.29 (s, 2H), 2.89-2.86 (m, 2H), 1.25-1.20 (m, 3H); 13C-NMR δ (ppm) 169.4, 167.0, 68.6, 60.9, 57.0, 54.5, 48.2, 14.2. (ESI) m/z: 188 (M+H+, 100).

reactant | N-(2-hydroxyethyl)iminodiacetic acid | 20 mmol, 3.55 g | OCCN(CC(=O)O)CC(=O)O | C6H11NO5
reactant | HCl | 21 mmol, 1.7 mL | Cl | ClH
reactant | EtOH | 500 mL | CCO | C2H6O
product | (2-Oxo-morpholin-4-yl)-acetic acid ethyl ester | 1.45 g | C(C)OC(CN1CC(OCC1)=O)=O | C8H13NO4
